US07361763B2
Step 2: Synthesis of N-Isopropyl-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-nicotinamide
Into a 5 mL screw-cap vial were added 5-[3-(2-Methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-nicotinic acid ethyl ester (50.2 mg, 0.095 mmol) and isopropylamine (500 μL). The vial was sealed and placed in heated block at 100° C. for 48 h. The reaction solution was concentrated and the residue was dissolved in 1:1 MeOH/acetone (2 mL total) and treated with 100 μL of 50% w/w KOH(aq) for 1 h. Glacial Acetic acid was added to obtain pH 7, then the reaction mixture was concentrated. The residue was partitioned between EtOAc and water, then the layers were separated, and the organic phase was washed 2× with water. The organic phase was treated with brine, dried (Na2SO4), filtered and concentrated. Purification by flash silica gel chromatography using a gradient of ethyl acetate (containing 10% MeOH) and hexanes afforded the title compound as a white powder (13 mg, 35%). 1H-NMR (500 MHz, d6-DMSO) δ=11.96 (br. s, 1H), 9.05 (d, J=2.5 Hz, 1H), 8.94 (d, J=2.0 Hz, 1H), 8.64 (d, J=2.0 Hz, 1H), 8.51 (d, J=8.0 Hz, 1H), 8.46 (d, J=2.0 Hz, 1H), 8.30 (d, J=2.0 Hz, 1H), 7.76 (s, 1H), 7.61 (d, J=5.5 Hz, 1H), 7.29 (dd, J=2, 7.5 Hz, 1H), 7.12 (d, J=7.5 1H), 7.04 (d, J=7.5 Hz, 1H), 4.11 (m, 1H), 3.84 (s, 3H), 1.17 (s, 6H); MS: m/z 387.1 [MH+].

reactant | 5-[3-(2-Methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-nicotinic acid ethyl ester | 0.095 mmol, 50.2 mg | C(C)OC(C1=CN=CC(=C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C)=O | C29H25N3O5S
reactant | isopropylamine | 500 μL | C(C)(C)N | C3H9N
product | N-Isopropyl-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-nicotinamide | 13 mg, 35% | C(C)(C)NC(C1=CN=CC(=C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC)=O | C23H22N4O2
